Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[O:3],0.7396126806100001
[C:4]([H:5])#[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.5364519882300005
[C:5]#[C:6][O:7][H:8].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][O:7][H:8],-2.68494878696
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3],2.85214697441
[H:13].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.62011061406
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.6774605938999998
[H:1][C:2]=[C:3]([H:4])[O:6][C:7]#[C:8][H:9].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],-1.70727721317
[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.6791182468
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[C:12]([H:13])([H:14])[H:15],3.89051045169
[H:1][O:2][C:3]([O:4][C:5]=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:6]([H:7])[H:8].[H:1][O:2][C:3]([O:4][C:5])=[C:9]([H:10])[H:11],6.2311201277
[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.80666182263
[C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.95951544373
[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-5.70379854952
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],1.72874207285
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9]#[C:10][H:11].[H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-2.02963861057
[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-7.700979687030001
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][C:9]([H:10])[H:11],4.02027849841
[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8].[O:9][H:10]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[O:9][H:10],-3.61712422114
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]1([H:11])[H:12],-3.1603000756299995
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1],4.23583041198
[H:15].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.66746425979
[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]=[O:11]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]1([H:8])[O:9][C:10][O:11]1,1.86908889096
[H:1][O:2][C:3]#[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-2.63609405464
[H:1][O:2][C@:3]1([H:4])[O:5][C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([O:5])[C:11]([C:6]([H:7])=[C:8]([H:9])[H:10])([H:12])[H:13],-0.0268147695206
[C:1][C:2][O:3].[C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],-1.70321970175
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:1]#[C:2].[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],8.16833511064
[H:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C@:6]1([H:7])[C:8]([H:9])[H:10],0.644561580721
[H:1][C:2][O:3]/[C:4]([O:5][H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4][O:5][H:6],6.13991812601
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3][O:5][C:6]([H:7])([H:8])[H:9].[H:4],2.6850838886000004
